US06635771B2
5,6-dichloro-3-pyridinemethanol (1.0 eq.) was taken up in dichloromethane and stirred overnight with carbon tetrabromide (1.5 eq.) and 1,3-bis(diphenylphosphino)propane (0.75 eq.) Ether was added to the solution and filtration followed by concentration of the filtrate afforded the 5,6-dichloro-3-bromomethylpyridine in 130% yield.

reactant | 5,6-dichloro-3-pyridinemethanol | 1.0 eq. | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | carbon tetrabromide | 1.5 eq. | C(Br)(Br)(Br)Br | CBr4
reactant | 1,3-bis(diphenylphosphino)propane | 0.75 eq. | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5,6-dichloro-3-bromomethylpyridine | 130% yield | ClC=1C=C(C=NC1Cl)CBr | C6H4BrCl2N
